### PR TITLE
feat: zero-dimensional spaces

### PR DESCRIPTION
**Pull request by vihdzp**
We introduce an abbreviation `ZeroDimensionalSpace X = HasSmallInductiveDimensionLT 1`. We prove, in various forms, the characterization of these spaces as those that have a basis of clopen sets. We then use this to restate or generalize various results throughout the library, which were formerly writing down the `IsTopologicalBasis {X | IsClopen X}` condition in full.

---

- [x] depends on: #40897
- [x] depends on: #42271

Moved from #37444.

This diff is somewhat large, but a large portion of it is trival typeclass generalization in theorems from the `Profinite` file, and moving them elsewhere,

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/SmallInductiveDimension.lean
Comment (felixpernegger) [inline Mathlib/Topology/SmallInductiveDimension.lean:1]: Maybe also Zero Dimensional => Completely regular? Fairly easy, see https://topology.pi-base.org/theorems/T000054

File: Mathlib/Topology/Separation/Profinite.lean [hunk 1]
```diff
@@ -40,42 +41,23 @@ theorem totallySeparatedSpace_of_t0_of_basis_clopen [T0Space X]
 
 variable [T2Space X] [CompactSpace X] [TotallyDisconnectedSpace X]
```
Comment (felixpernegger) [inline Mathlib/Topology/Separation/Profinite.lean]: Compact space can be generalised to weakly locally compact (i didnt check if this makes if much more difficult), see https://topology.pi-base.org/theorems/T000269

File: Mathlib/Topology/SmallInductiveDimension.lean
Comment (felixpernegger) [inline Mathlib/Topology/SmallInductiveDimension.lean:1]: For more API: Zero dimensional is hereditary to subspaces and preserved by poducts. Also preserved by separation quotient (but from experience this is annoying to do in lean)

File: Mathlib/Topology/SmallInductiveDimension.lean [hunk 2]
```diff
@@ -101,3 +89,97 @@ theorem HasSmallInductiveDimensionLT.hasSmallInductiveDimensionLE {n : ℕ}
...
+    (hU : IsOpen U) (hx : x ∈ U) : ∃ V : Set X, IsClopen V ∧ x ∈ V ∧ V ⊆ U :=
+  isTopologicalBasis_isClopen.mem_nhds_iff.1 (hU.mem_nhds hx)
+
+@[deprecated (since := "2026-07-23")]
+alias compact_exists_isClopen_in_isOpen := exists_isClopen_mem_of_isOpen
+
+theorem ZeroDimensionalSpace.of_hasBasis
+    (H : ∀ x : X, ∃ (ι : Sort*) (p : ι → Prop) (s : ι → Set X),
+      (∀ i, p i → IsClopen (s i)) ∧ (𝓝 x).HasBasis p s) :
+    ZeroDimensionalSpace X := by
```
Comment (felixpernegger) [inline Mathlib/Topology/SmallInductiveDimension.lean:163]: Is this the convention for indendation in such cases? (I genuinely dont know)

Comment (vihdzp) [reply Mathlib/Topology/SmallInductiveDimension.lean:163]: I think it is? I'm sure I've used this before.

File: Mathlib/Topology/Separation/Profinite.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Topology/Separation/Profinite.lean]: This theorem was proved in the `Profinite` file. I've moved all of its material to the `SmallInductiveDimension` file.

File: Mathlib/Topology/SmallInductiveDimension.lean
Comment (vihdzp) [reply Mathlib/Topology/SmallInductiveDimension.lean:1]: This PR has ballooned in size... best save this for a subsequent one!

File: Mathlib/Topology/Separation/Regular.lean [hunk 3]
```diff
@@ -799,3 +800,65 @@ instance ConnectedComponents.t2 [T2Space X] [CompactSpace X] : T2Space (Connecte
   rw [ConnectedComponents.isQuotientMap_coe.isClopen_preimage] at hU
   refine ⟨Vᶜ, V, hU.compl.isOpen, hU.isOpen, ?_, hb mem_connectedComponent, disjoint_compl_left⟩
   exact fun h => flip Set.Nonempty.ne_empty ha ⟨a, mem_connectedComponent, h⟩
+
+-- A more general instance is provided below.
+private instance [T2Space X] [TotallyDisconnectedSpace X] [CompactSpace X] :
```
Comment (plp127) [inline Mathlib/Topology/Separation/Regular.lean]:
```suggestion
private local instance [T2Space X] [TotallyDisconnectedSpace X] [CompactSpace X] :
```

File: Mathlib/Topology/Separation/CompletelyRegular.lean [hunk 4]
```diff
@@ -247,6 +263,8 @@ instance {ι : Type*} {X : ι → Type*} [t : Π (i : ι), TopologicalSpace (X i
 instance {X Y : Type*} [tX : TopologicalSpace X] [tY : TopologicalSpace Y]
     [htX : T35Space X] [htY : T35Space Y] : T35Space (X × Y) where
 
+instance [T0Space X] [ZeroDimensionalSpace X] : T35Space X where
+
```
Comment (felixpernegger) [inline Mathlib/Topology/Separation/CompletelyRegular.lean:274]: Do we really need this? (maybe this is common, I'm not sure)

**Review by felixpernegger — APPROVED** [review]
This looks go to me now.

Note to other reviewers: The diff is quite messy, but essentially this PR is adding the definition of zero dimensional spaces + easy API + restating old theorems.
The "complicated theorems" in this PR all have been in mathlib already, but can now be restated using zero dimensional spaces nicely (and easily).

File: Mathlib/Topology/Separation/CompletelyRegular.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/Topology/Separation/CompletelyRegular.lean:274]: `inferInstance` fails here. All of the individual fields can be inferred, but not all of them at once!

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 5]
```diff
@@ -21,7 +21,7 @@ Pretty much every topological property is preserved under homeomorphisms.
 
 @[expose] public section
 
-assert_not_exists Module MonoidWithZero
```
Comment (vihdzp) [inline Mathlib/Topology/Homeomorph/Lemmas.lean:24]: I think it's unreasonable that a file that knows about Baire spaces can't know about `ℕ∞`.

File: Mathlib/Topology/Metrizable/Basic.lean [hunk 6]
```diff
@@ -18,7 +18,7 @@ see `Mathlib/Topology/Metrizable/Uniformity.lean`.
 -/
 
 -- don't import the real numbers
-assert_not_exists AddMonoidWithOne
```
Comment (vihdzp) [inline Mathlib/Topology/Metrizable/Basic.lean:21]: This is an incredibly restrictive import, since it means we can't even import the most basic lemmas on `Nat.cast`.

Comment (felixpernegger) [reply Mathlib/Topology/Metrizable/Basic.lean:21]: maybe link to the zulip discussion?

Comment (plp127) [reply Mathlib/Topology/Metrizable/Basic.lean:21]: I can't imagine what you'd need such lemmas for (I added this in #27946)

Comment (vihdzp) [reply Mathlib/Topology/Metrizable/Basic.lean:21]: No Zulip discussion yet, but I can make one.

This instance is indirectly imported by `Mathlib.Algebra.Order.Sub.WithTop`, which is responsible for defining `ENat` subtraction. I do not see why a file on metrizable spaces can't know about `ENat` subtraction.

Comment (vihdzp) [reply Mathlib/Topology/Metrizable/Basic.lean:21]: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Using.20ENat.20in.20topology/near/616219293

File: Mathlib/Topology/SmallInductiveDimension.lean [hunk 7]
```diff
@@ -100,6 +91,188 @@ theorem HasSmallInductiveDimensionLT.hasSmallInductiveDimensionLE {n : ℕ}
...
+
+/-- Let `X` be a zero-dimensional compact Hausdorff space, `D i ⊆ X` a finite family of clopens,
+and `Z i ⊆ D i` closed. Assume that the `Z i` are pairwise disjoint. Then there exist clopens
+`Z i ⊆ C i ⊆ D i` with the `C i` disjoint, and such that `∪ D i ⊆ ∪ C i`. -/
+theorem exists_clopen_partition_of_clopen_cover
+    {I : Type*} [Finite I] {Z D : I → Set X}
+    (Z_closed : ∀ i, IsClosed (Z i)) (D_clopen : ∀ i, IsClopen (D i))
+    (Z_subset_D : ∀ i, Z i ⊆ D i) (Z_disj : univ.PairwiseDisjoint Z) :
+    ∃ C : I → Set X, (∀ i, IsClopen (C i)) ∧ (∀ i, Z i ⊆ C i) ∧ (∀ i, C i ⊆ D i) ∧
+    ⋃ i, D i ⊆ ⋃ i, C i ∧ univ.PairwiseDisjoint C := by
```
Comment (jjdishere) [inline Mathlib/Topology/SmallInductiveDimension.lean:205]: Would you mind modify the conclusion to the following form?

```suggestion
    ⋃ i, D i = ⋃ i, C i ∧ univ.PairwiseDisjoint C := by
```

File: Mathlib/Topology/SmallInductiveDimension.lean [hunk 8]
```diff
@@ -100,6 +91,188 @@ theorem HasSmallInductiveDimensionLT.hasSmallInductiveDimensionLE {n : ℕ}
...
+    have Z'_disj : univ.PairwiseDisjoint (Z ∘ some) := by
+      rw [← (Option.some_injective _).injOn.pairwiseDisjoint_image]
+      exact PairwiseDisjoint.subset Z_disj (by simp)
+    -- find `Z none ⊆ V ⊆ D none \ ⋃ Z'` using `exists_clopen_of_closed_subset_open`
+    let U : Set X := D none \ ⋃ i, Z (some i)
+    have U_open : IsOpen U := IsOpen.sdiff (D_clopen none).2
+      (isClosed_iUnion_of_finite (fun i ↦ Z_closed (some i)))
+    have Z0_subset_U : Z none ⊆ U := by
+      rw [subset_sdiff]
+      simpa using ⟨Z_subset_D none, fun i ↦ (by apply Z_disj; all_goals simp)⟩
```
Comment (jjdishere) [inline Mathlib/Topology/SmallInductiveDimension.lean:230]:
```suggestion
      simpa using ⟨Z_subset_D none, fun i ↦ (by apply Z_disj <;> simp)⟩
```

File: Mathlib/Topology/SmallInductiveDimension.lean [hunk 9]
```diff
@@ -100,6 +91,188 @@ theorem HasSmallInductiveDimensionLT.hasSmallInductiveDimensionLE {n : ℕ}
...
+    let C0 : Set X := D none \ ⋃ i, C' i
+    have : IsClopen C0 := (D_clopen none).diff (isClopen_iUnion_of_finite C'_clopen)
+    have : Z none ⊆ C0 := by
+      simp only [C0, subset_sdiff]
+      exact ⟨by grind, Disjoint.mono_left Z0_subset_V (by simp; grind)⟩
+    -- patch together to define `C none := C0`, `C (some i) := C' i`
+    -- and verify the needed properties
+    let C : Option I → Set X := fun i ↦ Option.casesOn i C0 C'
+    refine ⟨C, ?_, ?_, ?_, ?_, ?_⟩
+    all_goals try rintro (_ | i); all_goals grind
```
Comment (jjdishere) [inline Mathlib/Topology/SmallInductiveDimension.lean:253]:
```suggestion
    refine ⟨C, ?_, ?_, ?_, ?_, ?_⟩ <;>
    try rintro (_ | i) <;> grind
```

File: Mathlib/Topology/SmallInductiveDimension.lean [hunk 10]
```diff
@@ -100,6 +91,188 @@ theorem HasSmallInductiveDimensionLT.hasSmallInductiveDimensionLE {n : ℕ}
...
+    · intro x hx
+      rw [mem_iUnion] at hx ⊢
```
Comment (jjdishere) [inline Mathlib/Topology/SmallInductiveDimension.lean:255]:
```suggestion
    · simp_intro x hx
```

File: Mathlib/Topology/SmallInductiveDimension.lean [hunk 11]
```diff
@@ -100,6 +91,188 @@ theorem HasSmallInductiveDimensionLT.hasSmallInductiveDimensionLE {n : ℕ}
...
+      by_cases hx0 : x ∈ C0; { exact ⟨none, hx0⟩ }
```
Comment (jjdishere) [inline Mathlib/Topology/SmallInductiveDimension.lean:256]:
```suggestion
      by_cases hx0 : x ∈ C0
      · exact ⟨none, hx0⟩
```

File: Mathlib/Topology/SmallInductiveDimension.lean [hunk 12]
```diff
@@ -100,6 +91,188 @@ theorem HasSmallInductiveDimensionLT.hasSmallInductiveDimensionLE {n : ℕ}
...
+      by_cases hxD : x ∈ D none
+      · have hxC' : x ∈ ⋃ i, C' i := by grind
+        obtain ⟨i, hi⟩ := mem_iUnion.mp hxC'
+        exact ⟨some i, hi⟩
+      · obtain ⟨none | j, hi⟩ := hx; {grind}
+        have hxD' : x ∈ ⋃ i, D' i := mem_iUnion.mpr ⟨j, by grind⟩
+        obtain ⟨k, hk⟩ := mem_iUnion.mp <| C'_cover_D' hxD'
+        exact ⟨some k, hk⟩
```
Comment (jjdishere) [inline Mathlib/Topology/SmallInductiveDimension.lean:264]:
```suggestion
      · obtain ⟨none | j, hi⟩ := hx
        · contradiction
        · have hxD' : x ∈ ⋃ i, D' i := mem_iUnion.mpr ⟨j, by grind⟩
          obtain ⟨k, hk⟩ := mem_iUnion.mp <| C'_cover_D' hxD'
          exact ⟨some k, hk⟩
```

Comment (jjdishere) [reply Mathlib/Topology/SmallInductiveDimension.lean:264]: slightly improves readability

**Comment by vihdzp** [comment]
@jjdishere All of your suggestions concern theorems that are already in Mathlib, and that I'm just moving... Could I instead apply them on a future clean-up PR?

**Comment by jjdishere** [comment]
> @jjdishere All of your suggestions concern theorems that are already in Mathlib, and that I'm just moving... Could I instead apply them on a future clean-up PR?

Sure! And I'll come back to your PR to review the remaining parts several hours later.

File: Mathlib/Topology/SmallInductiveDimension.lean [hunk 13]
```diff
@@ -100,6 +91,188 @@ theorem HasSmallInductiveDimensionLT.hasSmallInductiveDimensionLE {n : ℕ}
...
+  have V_cover : Z ⊆ ⋃ z, V z := fun z hz ↦ mem_iUnion.mpr ⟨⟨z, hz⟩, (hV ⟨z, hz⟩).2.1⟩
+  -- choose a finite subcover
+  choose I hI using hZ.isCompact.elim_finite_subcover V (fun z ↦ (hV z).1.isOpen) V_cover
+  -- the union of this finite subcover does the job
+  exact ⟨⋃ i ∈ I, V i, I.finite_toSet.isClopen_biUnion (fun i _ ↦ (hV i).1), hI, by simp_all⟩
+
+/-- Let `X` be a zero-dimensional compact Hausdorff space, `D i ⊆ X` a finite family of clopens,
+and `Z i ⊆ D i` closed. Assume that the `Z i` are pairwise disjoint. Then there exist clopens
+`Z i ⊆ C i ⊆ D i` with the `C i` disjoint, and such that `∪ D i ⊆ ∪ C i`. -/
+theorem exists_clopen_partition_of_clopen_cover
```
Comment (jjdishere) [inline Mathlib/Topology/SmallInductiveDimension.lean:200]: I think we should always keep to `isClopen`.
```suggestion
theorem exists_isClopen_partition_of_isClopen_cover
```

File: Mathlib/Topology/SmallInductiveDimension.lean [hunk 14]
```diff
@@ -100,6 +91,188 @@ theorem HasSmallInductiveDimensionLT.hasSmallInductiveDimensionLE {n : ℕ}
...
+  refine ZeroDimensionalSpace.of_hasBasis fun x ↦ ?_
+  rw [IndiscreteTopology.nhds_eq]
+  exact ⟨_, _, _, fun _ _ ↦ isClopen_univ, Filter.hasBasis_top⟩
+
+section CompactSpace
+variable [ZeroDimensionalSpace X] [CompactSpace X]
+
+/-- In a zero-dimensional compact space `X`, if `Z ⊆ U` are subsets with `Z` closed
+and `U` open, there exists a clopen `C` with `Z ⊆ C ⊆ U`. -/
+theorem exists_clopen_of_closed_subset_open
```
Comment (jjdishere) [inline Mathlib/Topology/SmallInductiveDimension.lean:185]:
```suggestion
theorem exists_isClopen_of_isClosed_subset_isOpen
```

File: Mathlib/Topology/SmallInductiveDimension.lean [hunk 15]
```diff
@@ -100,6 +91,188 @@ theorem HasSmallInductiveDimensionLT.hasSmallInductiveDimensionLE {n : ℕ}
...
+theorem isTopologicalBasis_isClopen [ZeroDimensionalSpace X] :
+    IsTopologicalBasis { s : Set X | IsClopen s } :=
+  zeroDimensionalSpace_iff_isTopologicalBasis.1 ‹_›
+
+theorem ZeroDimensionalSpace.of_isTopologicalBasis {u : Set (Set X)} (hs : ∀ s ∈ u, IsClopen s)
+    (hu : IsTopologicalBasis u) : ZeroDimensionalSpace X := by
+  rw [zeroDimensionalSpace_iff_isTopologicalBasis]
+  exact hu.of_isOpen_of_subset (fun _ ↦ IsClopen.isOpen) hs
+
+theorem zeroDimensionalSpace_iff_isTopologicalBasis_iff_nhds_basis :
```
Comment (jjdishere) [inline Mathlib/Topology/SmallInductiveDimension.lean]:
```suggestion
theorem zeroDimensionalSpace_iff_nhds_hasBasis_isClopen :
```

File: Mathlib/Topology/SmallInductiveDimension.lean [hunk 16]
```diff
@@ -100,6 +91,188 @@ theorem HasSmallInductiveDimensionLT.hasSmallInductiveDimensionLE {n : ℕ}
...
+abbrev ZeroDimensionalSpace :=
+  HasSmallInductiveDimensionLT X 1
+
+theorem zeroDimensionalSpace_def : ZeroDimensionalSpace X ↔ HasSmallInductiveDimensionLT X 1 :=
+  .rfl
+
+theorem zeroDimensionalSpace_def' : ZeroDimensionalSpace X ↔ HasSmallInductiveDimensionLE X 0 :=
+  .rfl
+
+lemma zeroDimensionalSpace_iff_isTopologicalBasis :
```
Comment (jjdishere) [inline Mathlib/Topology/SmallInductiveDimension.lean]:
```suggestion
lemma zeroDimensionalSpace_iff_isTopologicalBasis_isClopen :
```

**Review by jjdishere — COMMENTED** [review]
Although this PR has a large import tag, it seems main import change comes from file
`Mathlib/Topology/Separation/Regular.lean`
The imports it added
```
public import Mathlib.Topology.Connected.TotallyDisconnected
public import Mathlib.Topology.Separation.Hausdorff
```
are reasonably in the scope of separation properties.

**Comment by jjdishere** [comment]
Thanks! LGTM except for some minor naming issues.

File: Mathlib/Topology/SmallInductiveDimension.lean (hunk 13 above)
Comment (vihdzp) [reply Mathlib/Topology/SmallInductiveDimension.lean:200]: Agree with this, but these are again preexisting lemmas, so I'd rather clean them up in a separate PR.

Comment (jjdishere) [reply Mathlib/Topology/SmallInductiveDimension.lean:200]: Sure!

**Comment by jjdishere** [comment]
Thanks!

maintainer merge
